US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[N-[[(morpholin-4-yl)carbonyl]methyl]carbamoyl]piperazine hydrochloride
Starting materials : lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate, 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[N-[[(morpholin-4-yl)carbonyl]methyl]carbamoyl]piperazine hydrochloride

reactant | lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | CC1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+]
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[N-[[(morpholin-4-yl)carbonyl]methyl]carbamoyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)C(NCC(=O)N1CCOCC1)=O
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[N-[[(morpholin-4-yl)carbonyl]methyl]carbamoyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(NCC(=O)N1CCOCC1)=O | InChI=1S/C29H33ClN6O6S2.ClH/c1-18-12-23-25(15-31-18)43-28(33-23)29(39)36-7-6-35(17-24(36)27(38)32-16-26(37)34-8-10-42-11-9-34)44(40,41)22-5-3-19-13-21(30)4-2-20(19)14-22;/h2-5,13-14,18,24,31H,6-12,15-17H2,1H3,(H,32,38);1H
